US09303023B2
3-(2-Bromoethyl)-5-methoxy-1H-indole
To a solution of 2-(5-methoxy-1H-indol-3-yl)ethanol (4.0 g, 20.92 mmol) in DCM (30 mL), CBr4 (7.98 g, 24.06 mmol) was added, then the reaction mixture was cooled to 0° C. and PPh3 (6.3 g, 24.0 mmol) was added. After stirring at rt for 2 h, the solvent was removed under reduced pressure. Purification was performed by FC (EtOAc/hex 3:1, Rf=0.31) to yield the title compound as a brown oil which turned into a solid during storage in the freezer. LC-MS conditions B: tR=0.78 min, [M+H]+=254.06.

reactant | 2-(5-methoxy-1H-indol-3-yl)ethanol | 20.92 mmol, 4.0 g | COC=1C=C2C(=CNC2=CC1)CCO | C11H13NO2
reactant | CBr4 | 24.06 mmol, 7.98 g | C(Br)(Br)(Br)Br | CBr4
reactant | PPh3 | 24.0 mmol, 6.3 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-Bromoethyl)-5-methoxy-1H-indole | BrCCC1=CNC2=CC=C(C=C12)OC | C11H12BrNO
